Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L flank and subcostal pain, mediastinal mass on MRI
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms. ___ is a ___ F presents with L subcostal and flank pain, 
epidural lesions on OSH MRI and a mediastinal mass on CTA. Pt 
first experienced flank pain on ___ three days prior to 
admission. The pain increased in intensity over the following 
day into the night. The pain was left subcostal and flank pain 
that did not radiate at the level of T9 with accompanying left 
flank pain that was ___ in severity made worse with deep 
inhalation. She does not have a history of trauma or strain. She 
had no chest pain or shortness of breath with this pain. She 
endorses having some nausea and reduced appetite, but no 
vomiting or diarrhea. She has had chills and sweats but 
associates this with menopausal symptoms. She has been afebrile. 
Because of her pain, she visited her PCP who prescribed her 
vicodin to little relief. Her PCP referred the patient to an OSH 
ED for further evaluation. At OSH, an CT abdomen and pelvis w/o 
contrast was obtained which was obtained with question of a 
spinal lesion and a mediastinal mass. A follow-up MRI of the 
spine at the hospital was read as having an inflammatory lesion 
at the level of the lower thoracic spine, with a question of 
possible infection. She received toradol, dilaudid, zofran and 
ciprofloxacin at OSH before transfer to BI ED.
.
In the ED, initial VS were: T 98.8, HR 108, BP 140/89, RR 16, 
SaO2 95% RA. Nuerosurgery was consulted. A wet read of the OSH 
MRI by neurosurg suggested posterior epidural lesions that were 
posited to be hematomas vs artifact from a poor study. A CTA 
performed in the ED has a wet read that shows an anterior 
mediastinal mass that is likely residual thymic tissue. Labs in 
the ED were significant for an Hct of 32.3, a U/A wnl and normal 
chem 7. Patient then came to the floor.  
.  
On the floor, pt was experiencing ___ flank pain. Otherwise, 
she had a mild headache and no evolution of symptoms. 
.  
Review of systems:  
(+) Per HPI; also recent weight gain, 2 day h/o constipation
(-) Denies fever. Denies headache, sinus tenderness, rhinorrhea 
or congestion. Denied cough, shortness of breath. Denied chest 
pain or tightness, palpitations. Denied vomiting, diarrhea, or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
Osteoarthritis - shoulder, cervical spine; Rx flexeril
Diverticulitis s/p colectomy ___ years ago
L ovarian cyst s/p L oophorectomy ___ years ago
Mitral Prolapse
.
Medications:
Flexiril 10mg BID
.  
Allergies: NKDA

 
Social History:
___
Family History:
Family History: Has an uncle dx with lung CA with spinal mets at 
age of ___. Mother, d. ___, had schleroderma with Raynaud's 
syndrome. Grandfather had COPD and was a heavy smoker.
 
Physical Exam:
Physical Exam:  
Vitals: T: 99.1 BP: 142/96 P: 98 R: 16 O2: 100% 2L NC  
General: Pt is alert, lying on her R side due to pain on her L. 
HEENT: Sclera anicteric, PERRL, EOMI 
Neck: supple, no JVD, no LAD 
Lungs: CTAB, no wheezes, rales, ronchi  
CV: RRR, normal S1 + S2, holosystolic murmur best heard on LLSB, 
no rubs or gallops 
Abdomen: soft, non-tender, slightly distended, bowel sounds 
present, no rebound tenderness or guarding, no HSM
Back: tender to palpation in approximately the T9 dermatome to 
light and deep touch.  no rash. 
MSK: No point tenderness along the spine, no paraspinal 
tenderness. Range of motion wnl, pain limited.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro:  A+Ox3. No focal deficits.  
 
Pertinent Results:
___ 08:45PM   PLT COUNT-280
___ 08:45PM   NEUTS-73.0* ___ MONOS-3.5 EOS-0.6 
BASOS-0.3

___ 08:45PM   WBC-9.6 RBC-4.32 HGB-10.0* HCT-32.3* MCV-75* 
MCH-23.2* MCHC-31.0 RDW-13.4
___ 08:45PM   estGFR-Using this
___ 08:45PM   GLUCOSE-99 UREA N-7 CREAT-0.6 SODIUM-138 
POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-27 ANION GAP-15
___ 03:45AM URINE  MUCOUS-FEW
___ 03:45AM URINE  RBC-1 WBC-4 BACTERIA-FEW YEAST-NONE 
EPI-3 TRANS EPI-<1
___ 03:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 LEUK-TR
___ 03:45AM URINE  COLOR-Yellow APPEAR-Hazy SP ___

CTA  - 
FINDINGS: The heart size is normal, and there is no pericardial 
effusion.
The great vessels are patent and normal in caliber. There is no 
pulmonary
embolus detected to the subsegmental levels. The lungs are 
clear. There is
no pulmonary nodule or mass. Residual thymic tissue is present 
(4:113).
There is no axillary or mediastinal lymphadenopathy.
 
Included views of the upper abdomen demonstrate a 
normal-appearing liver,
gallbladder, stomach, pancreas, adrenal glands, kidneys, spleen, 
and splenic
flexure.
 
OSSEOUS STRUCTURES: There is no acute fracture. No concerning 
blastic or
lytic lesions are identified.
 
IMPRESSION: Residual thymic tissue. No concerning masses 
detected.
 
The study and the report were reviewed by the staff radiologist.
 

 

MRI T spine 
Final Report
INDICATION: ___ woman with left flank/subcostal pain, 
mild dyspnea,
concern for possible mass or discitis per outside hospital 
report.
 
COMPARISON: Outside hospital MR from ___.
 
TECHNIQUE: MR images were obtained through the thoracic spine 
using sagittal
T1, T2, STIR and sagittal T1 post-contrast images. Axial T1- and 
T2-weighted
images were obtained and reviewed.
 
FINDINGS:
 
There is preservation of normal thoracic kyphosis with normal 
vertebral body
height and signal morphology. The intervertebral disc spaces are 
preserved
with normal signal intensity and morphology. The spinal cord is 
normal in
signal intensity and morphology. No epidural, prevertebral or 
paravertebral
abnormalities are noted. There are small left greater than right 
simple
pleural effusions. Partially imaged abdomen is unremarkable. The 
partially
imaged aorta is unremarkable as well.
 
IMPRESSION:
 
1. Normal thoracic spine MRI, except for some anterior 
osteophytes. No
epidural abscess, discitis or osteomyelitis.
 
2. Small bilateral pleural effusions.
 
The study and the report were reviewed by the staff radiologist.
 
 
Brief Hospital Course:
Ms. ___ is a ___ F, otherwise healthy, presenting with L 
subcostal and flank pain and a question of epidural spine 
lesions on CT from OSH.
.  
#  Epidural lesions: From the outside hospital, there was a 
concern for a posterior mediastinal mass along the level of 
T8-T12 with a question of inflammation and possible disk 
herniation.  Due to poor quality of OSH MRI, MR was repeated at 
___.  Repeat MRI in house was normal without did not show any 
spinal or paraspinal pathologies.
.  
#  Left subcostal and flank pain: Pt came in with ___ sharp, 
constant flank pain made worse with deep inhalation that does 
not radiate. After the epidural pathologies were ruled out, we 
reviewed OSH records and ED workup to rule out other etiologies 
of flank pain. Workup was unimpressive for nephrolithiasis (no 
hydronephrosis or L renal stones on CT abdomen) and 
pylonephritis (bland U/A, afebrile). Read of the OSH pelvic U/S 
given at transfer show evidence of uterine myomas that do not 
appear changed, but no cystic adnexal process and indicated in 
the CT abdomen and pelvis. Given the history and physical, pain 
is likely due to muskuloskeletal strain vs shingles with lesions 
that are not yet manifest. She was treated supportively with 
pain control and will follow up with her PCP for ongoing care. 
.
# Constipation: Pt has been constipated for last two days with 
some discomfort and bowel distention. She was given milk of 
magnesia, colace and senna PRN. She did not have a bowel 
movement in house.
.
#Transitions of care: Pt still has L flank pain upon discharge.
- L flank pain: Pt is being prescribed percocet ___ tabs Q4H:PRN 
for pain. She should follow up with her PCP to have ___ further 
workup of the flank pain. Of note: OSH pelvic U/S revealed 
uterine myomas that do not appear changed, but no cystic adnexal 
process.
- Constipation: Patient should take a bowel regimen at home to 
relieve her constipation and follow up with her PCP.
 
Medications on Admission:
Flexeril 10mg BID
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain for 5 days: Please take 
this for breakthrough pain between Ibuprofen doses.
Disp:*15 Tablet(s)* Refills:*0*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain for 2 weeks.
Disp:*30 Tablet(s)* Refills:*0*
3. cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO twice a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary- 
left flank pain

Secondary:
Constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital because you had pain on your left back 
and under your ribs, and also because you had some scans from 
your outside hospital that were concerning. We had our 
nuerosurgeons see you and review your MRI and they thought the 
MRI scan looked abnormal because of motion during the study. 
Your repeat MRI came back normal. You also got a CT scan while 
in the ED to make sure you didn't have any clots in your lungs, 
called a pulmonary embolism. That CT came back normal. You also 
got some blood and urine tests, all of which were reassuring. 
While you were here, we gave you pain medication for your back 
pain which seemed to help. We do not think that your back pain 
is caused by kidney stones, infection or any masses. You are 
able to go home with some pain medication. 

While you are taking Percocet for your back pain you should 
avoid driving and making important decisions because Percocet 
can make you drowsy. Percocet can make you very constipated, so 
you should take docusate and senna to avoid constipation. These 
can be bought in any drug store. Please be sure to also drink 
plenty of fluids. You can also try drinking prune juice. If you 
are still constipated after this, you should try stronger 
laxatives, like lactulose and then dulcolax. Also, try to use 
your percocet less to see if this helps you get a bowel 
movement.
 
Followup Instructions:
___